US04313949
2-Amino-3-(4-chlorobenzoyl)phenylacetamide
To an agitated solution of 28.5 g (0.077 mole) of 2-amino-3-(4-chlorobenzoyl)-α-(phenylthio)phenylacetamide in 1 liter of tetrahydrofuran was added 230 g of wet Raney nickel (washed 3 times with water and 3 times with tetrahydrofuran). After 15 minutes the mixture was filtered and the filtrate concentrated under reduced pressure to give 17.4 g (84%) of yellow crystalline solid. Recrystallization from isopropyl alcohol followed by recrystallizing twice from absolute ethanol gave yellow needles, m.p. 212°-215° C.

reactant | 2-amino-3-(4-chlorobenzoyl)-α-(phenylthio)phenylacetamide | 0.077 mole, 28.5 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)C(C(=O)N)SC1=CC=CC=C1 | C21H17ClN2O2S
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
catalyst | Raney nickel | 230 g | [Ni] | Ni
product | 2-Amino-3-(4-chlorobenzoyl)phenylacetamide | 17.4 g, 84% | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)N | C15H13ClN2O2
